US06495549B1
(2S)-1-(5-Fluoro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid
The title compound was prepared by a similar method to Preparation 3 from ethyl(2S)-1-(5-fluoro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate [see Preparation 19] and 1N aqueous lithium hydroxide to afford (2S)-1-(5-fluoro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid as a solid.

reactant | ethyl(2S)-1-(5-fluoro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate | FC=1C=CC2=C(N=C(O2)N2[C@@H](CCCC2)C(=O)OCC)C1 | C15H17FN2O3
reactant | lithium hydroxide | 1N | [OH-].[Li+]
product | (2S)-1-(5-fluoro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid | FC=1C=CC2=C(N=C(O2)N2[C@@H](CCCC2)C(=O)O)C1 | C13H13FN2O3
